US09353108B2
H) 6-(1-((6-Cyclopropyl-2,2′,4′-trifluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
A 2 M aqueous sodium hydroxide solution (1.5 mL) was added at room temperature to an ethanol (8 mL) solution of methyl 6-(1-((6-cyclopropyl-2,2′,4′-trifluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (244 mg), and the mixture was stirred at 80° C. for 2 hours in a nitrogen atmosphere. Then, the solvent was distilled off under reduced pressure. Water was added to the obtained residue, and the mixture was neutralized with 2 M hydrochloric acid, followed by extraction with a mixed solution of ethyl acetate and THF. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was crystallized (hexane/ethyl acetate) and further recrystallized (hexane/ethanol) to obtain the title compound (160 mg).

reactant | sodium hydroxide | 2 M, 1.5 mL | [OH-].[Na+]
reactant | methyl 6-(1-((6-cyclopropyl-2,2′,4′-trifluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 244 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)OC)=O | C35H38F3N3O4
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 6-(1-((6-Cyclopropyl-2,2′,4′-trifluoro-3-methoxybiphenyl-4-yl)methyl)piperidin-4-yl)-5-oxo-2-propyl-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 160 mg | C1(CC1)C1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CCC)C(=O)O)=O | C34H36F3N3O4
